US05298652
A mixture of 1.0 g (2.0 mmol) of 5-(octadecyloxy)-2-(phenylmethoxy)benzoic acid in 5 ml of thionyl chloride was heated to reflux for 1 hour and then concentrated at reduced pressure. The resultant acid chloride was dissolved in 30 ml of anhydrous THF and added dropwise to a stirred mixture of 0.785 g (2.5 mmol) of dibenzyl iminodiacetate and 0.85 ml (6.1 mmol) of triethylamine in 10 ml of THF. The reaction mixture was stirred at room temperature for 20 hours and the solvent was removed at reduced pressure. The product was purified by HPLC using 5% ethyl acetate-hexane to give 0.70 g (44% yield) of N-[5-(octadecyloxy)-2-(phenylmethoxy) benzoyl]-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester as an oil.

reactant | 5-(octadecyloxy)-2-(phenylmethoxy)benzoic acid | 2.0 mmol, 1.0 g | C(CCCCCCCCCCCCCCCCC)OC=1C=CC(=C(C(=O)O)C1)OCC1=CC=CC=C1 | C32H48O4
reactant | dibenzyl iminodiacetate | 2.5 mmol, 0.785 g | N(CC(=O)OCC1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | C18H19NO4
reactant | triethylamine | 6.1 mmol, 0.85 ml | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[5-(octadecyloxy)-2-(phenylmethoxy) benzoyl]-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester | 0.70 g, 44% yield | C1(=CC=CC=C1)COC(CN(CC(=O)OCC1=CC=CC=C1)C(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCC1=CC=CC=C1)=O)=O | C50H65NO7
